US04596869
To a solution of ethyl 2-(4-chloro-6-formamidopyrimidin-2-yl)-2-methoxyiminoacetate (syn isomer) (17 g) in ethanol (255 ml) was added dropwise phosphoryl chloride (14.7 g) under cooling in an ice bath. The mixture was stirred for 1.5 hours at ambient temperature and evaporated to dryness. The residue was dissolved in a mixture of ethyl acetate and water and adjusted to pH 7 with an aqueous solution of sodium bicarbonate. The organic layer was separated out, dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was triturated with n-hexane to give ethyl 2-(4-amino-6-chloropyrimidin-2-yl)-2-methoxyiminoacetate (syn isomer) (9.99 g), mp 136°-142° C.

reactant | ethyl 2-(4-chloro-6-formamidopyrimidin-2-yl)-2-methoxyiminoacetate | 17 g | ClC1=NC(=NC(=C1)NC=O)C(C(=O)OCC)=NOC | C10H11ClN4O4
reactant | phosphoryl chloride | 14.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethanol | 255 ml | C(C)O | C2H6O
product | ethyl 2-(4-amino-6-chloropyrimidin-2-yl)-2-methoxyiminoacetate | 9.99 g | NC1=NC(=NC(=C1)Cl)C(C(=O)OCC)=NOC | C9H11ClN4O3
